US04051248
A. 6-Chloro-2-[(dimethylamino)methyl]-3,4-dihydro-1-(2H)-naphthalenone, hydrochloride (1:1)
A mixture comprising 6.0 g 6-chloro-α-tetralone, 3.5 g dimethylamine hydrochloride, 1.3 g paraformaldehyde, and 7 ml 95% ethanol containing 0.07 ml concentrated hydrogen chloride is heated on a steam bath for 1.5 hours. The reaction mixture soon become homogeneous and the paraformaldehyde dissolves. The warm solution is transferred to a wide-mounted flask and is quickly diluted with acetone (90 ml). Cooling this deep purpose solution in the freezer for several hours produces a crystalline mass of light purple needles that is filtered and washed with additional acetone. After drying this material in vacuum, it weighs 6.8 g (76%), melting point 137°-139° C.

reactant | 6-chloro-α-tetralone | 6.0 g | C1CC2=C(C=CC(=C2)Cl)C(=O)C1 | C10H9ClO
reactant | dimethylamine hydrochloride | 3.5 g | Cl.CNC
reactant | paraformaldehyde | 1.3 g | C=O | CH2O
reactant | ethanol | 7 ml | C(C)O | C2H6O
solvent | acetone | 90 ml | CC(=O)C | C3H6O
product | 6-Chloro-2-[(dimethylamino)methyl]-3,4-dihydro-1-(2H)-naphthalenone, hydrochloride | Cl.ClC=1C=C2CCC(C(C2=CC1)=O)CN(C)C | InChI=1S/C13H16ClNO.ClH/c1-15(2)8-10-4-3-9-7-11(14)5-6-12(9)13(10)16;/h5-7,10H,3-4,8H2,1-2H3;1H
